US07732435B2
7-(4-Chlorophenyl)-8-isopropyl-3H-chromeno[7,8-d]imidazol-6-one (and tautomer)
7,8-Diamino-3-(4-chlorophenyl)-2-isopropyl-chromen-4-one (43 mg, 0.13 mmol) is dissolved in formic acid (1.5 ml), and the solution is heated at reflux for 1 h. The reaction mixture is cooled to room temperature, diluted with ethyl acetate (40 ml) and washed with saturated sodium bicarbonate solution (2×30 ml), water (40 ml) and saturated brine (30 ml). The organic layer is dried (MgSO4), filtered and evaporated to give a pale yellow solid. This is triturated with n-hexane/ethyl acetate/dichloromethane and filtered to give a colourless powder.

reactant | 7,8-Diamino-3-(4-chlorophenyl)-2-isopropyl-chromen-4-one | 0.13 mmol, 43 mg | NC1=CC=C2C(C(=C(OC2=C1N)C(C)C)C1=CC=C(C=C1)Cl)=O | C18H17ClN2O2
reactant | formic acid | 1.5 ml | C(=O)O | CH2O2
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | 7-(4-Chlorophenyl)-8-isopropyl-3H-chromeno[7,8-d]imidazol-6-one | ClC1=CC=C(C=C1)C1=C(OC2=C(C1=O)C=CC=1NC=NC12)C(C)C | C19H15ClN2O2
